US06375943B1
(1R,2R,5R)-2-methyl-6-oxabicyclo[3.2.1]octan-7-one (9) (Avery, J. W., et al., Tetrahedron Lett., 35: 9337-9338 (1994)).
A solution of 8 (26.8 g, 101 mmol), tributyltin hydride (29.8 mL, 111 mmol), and AIBN (200 mg) in benzene (300 mL) was refluxed overnight. After removing the benzene solvent in vacuo, diethyl ether (250 mL) and 10% aqueous KF (250 mL) was added. Stirring for 30 min precipitated a tributyltin flouride polymer. The polymer was filtered and the mother liquors were extracted with methylene chloride (3×100 mL). The combined organics were dried (MgSO4) and the volatiles were removed in vacuo to yield an oil which was purified by flash chromatography to give a yellowish solid (13.2 g, 94% yield). Rf 0.26 (ethyl acetate/hexane 1:9); m.p. 62-63° C.; 1H NMR (300 MHz, CDCl3) δ 4.76-4.80 (m, 1H), 2.43-2.46 (m, 1H), 2.12-2.25 (m, 2H), 2.01-2.05 (m, 1H), 1.89-1.98 (m, 2H), 1.62-1.70 (m, 1H), 1.41-1.47 (m, 1H), 1.13 (d, J=6.8, 3H); 13C NMR (75 MHz, CDCl3) δ 179.1, 78.1, 44.5, 31.0, 28.1, 24.8, 24.4, 17.5; MS (EI) m/z 140 (M+, 3), 112 ([M-CO]+, 3), 97 (28), 81(100), 70 (38), 55 (48); [α]D+31.3 (c=0.96°, CHCl3); Analysis calc'd for C8H12O2: C, 68.54; H, 8.63. Found: C, 68.15; H, 8.60.

reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (1R,2R,5R)-2-methyl-6-oxabicyclo[3.2.1]octan-7-one | C[C@H]1[C@@H]2C(O[C@H](CC1)C2)=O | C8H12O2
